US07915261B2
3-{2-[1-(Tert-butoxycarbonyl)-4-piperidinyl]ethyl}benzoic acid (17.8 g) was dissolved in DMF (200 ml), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (15.4 g) and 1-hydroxybenzotriazole (10.8 g) were added thereto, followed by stirring at room temperature for 2 hours. Ammonium chloride (8.57 g) and TEA (22.3 ml) were added to the reaction liquid, followed by stirring overnight at room temperature. An aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, and the precipitated crystal was collected by filtration and dried to obtain tert-butyl 4-{2-[3-(aminocarbonyl)phenyl]ethyl}-1-piperidinecarboxylate (10.8 g).

reactant | 3-{2-[1-(Tert-butoxycarbonyl)-4-piperidinyl]ethyl}benzoic acid | 17.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC=1C=C(C(=O)O)C=CC1 | C19H27NO4
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 15.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 10.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Ammonium chloride | 8.57 g | [Cl-].[NH4+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-{2-[3-(aminocarbonyl)phenyl]ethyl}-1-piperidinecarboxylate | 10.8 g | NC(=O)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O3
